US05308854
Step E: Preparation of 3-[(benzoxazol-2-yl)methoxy]-2-methoxy-5-ethyl-6-methylpyridine
A quantity of 60% sodium hydride in mineral oil (24 mg, 0.6 mmol) was added to a solution of 2-methoxy-3-hydroxy-5-ethyl-6-methylpyridine (77 mg, 0.46 mmol) in dry dimethylformamide (2 mL). After gas evolution ceased, 2-(chloromethyl) benzoxazole (100 mg, 0.6 mmol) was added and the reaction mixture warmed at 60° C. for one hour. The reaction was then cooled, diluted with diethyl ether, the ether extract washed with water, dried (Na2SO4), filtered and evaporated to give 151 mg of crude mixture. This mixture was flash chromatographed on silica gel, eluting with 0.5% methanol/chloroform. Combined appropriate fractions gave 46 mg (32%) of oily product.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-methoxy-3-hydroxy-5-ethyl-6-methylpyridine | 0.46 mmol, 77 mg | COC1=NC(=C(C=C1O)CC)C | C9H13NO2
reactant | 2-(chloromethyl) benzoxazole | 0.6 mmol, 100 mg | ClCC=1OC2=C(N1)C=CC=C2 | C8H6ClNO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[(benzoxazol-2-yl)methoxy]-2-methoxy-5-ethyl-6-methylpyridine | 46 mg, 32% | O1C(=NC2=C1C=CC=C2)COC=2C(=NC(=C(C2)CC)C)OC | C17H18N2O3
